US09107916B2
A. 2-[5-Hydroxy-3-(methoxymethyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 39% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and methyl 4-methoxy-3-oxobutanoate according to the procedure for the preparation of Example 3, part A. [M+H] Calc'd for C11H10N4O2, 231. Found, 231.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | methyl 4-methoxy-3-oxobutanoate | COCC(CC(=O)OC)=O | C6H10O4
product | 2-[5-Hydroxy-3-(methoxymethyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 39% yield | OC1=CC(=NN1C1=NC=CC(=C1)C#N)COC | C11H10N4O2
